US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (1.23 g, 3.32 mmol, 1.0 equiv, HPLC RT=2.77 min), R-hexahydromandelic acid (0.552 g, 3.49 mmol, 1.05 equiv), and HOBT hydrate (0.524 g, 3.32 mmol, 1.0 equiv) in DMF (20 mL) was added EDC (0.855 g, 4.32 mmol, 1.3 equiv). Diisopropylethylamine was then added in portions (0.5 mL total) to bring the pH of the solution to 6-7 as measured on wetted E. Merck pH indicator strips. The mixture was stirred at ambient temperature for 2 h, at which time HPLC analysis indicated complete consumption of the proline starting material. The DMF was removed under reduced pressure and the residue was partitioned between EtOAc (100 mL) and saturated aqueous NaHCO3 (50 mL). The EtOAc layer was separated, dried over anhydrous MgSO4, and filtered. The filtrate solvent was removed under reduced pressure and the residue was purified by flash chromatography using EtOAc as eluant. 1-((2R)-2-Cyclohexyl-2-hydroxyethanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide was obtained as a colorless gum (1.87 g, 90%; TLC Rf=0.7 (EtOAc); HPLC RT=3.45 min, method A; LC-MS m/z=508).

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 3.32 mmol, 1.23 g, 1.0 equiv | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | HOBT hydrate | 3.32 mmol, 0.524 g, 1.0 equiv | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 4.32 mmol, 0.855 g, 1.3 equiv
reactant | Diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-((2R)-2-Cyclohexyl-2-hydroxyethanoyl)-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)-L-prolinamide | C1(CCCCC1)[C@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)O | C26H38ClN3O5
